US08217027B2
A solution of (5R,7R)-7-(4-octyloxy-phenyl)-3-oxa-1-aza-spiro[4.4]nonan-2-one (61.0 mg, 0.177 mmol) in dioxane (3.0 mL) was treated with lithium hydroxide, hydrate (100 mg, 2.38 mmol) and water (1.0 mL). The mixture was heated to reflux for about 10 hours. The reaction was concentrated, treated with water (10 mL) and extracted twice with ether (10 mL). The ether extracts were dried over Na2SO4, filtered and concentrated. The residue was treated with 2 M HCl (2.0 mL) to yield a white solid which was collected and dried to yield 33.0 mg (52%) of [(1R,3R)-1-Amino-3-(4-octyloxy-phenyl)-cyclopentyl]-methanol; hydrochloride.

reactant | (5R,7R)-7-(4-octyloxy-phenyl)-3-oxa-1-aza-spiro[4.4]nonan-2-one | 0.177 mmol, 61.0 mg | C(CCCCCCC)OC1=CC=C(C=C1)[C@H]1C[C@@]2(COC(N2)=O)CC1 | C21H31NO3
reactant | lithium hydroxide, hydrate | 2.38 mmol, 100 mg | O.[OH-].[Li+]
reactant | water | 1.0 mL | O | H2O
solvent | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
product | [(1R,3R)-1-Amino-3-(4-octyloxy-phenyl)-cyclopentyl]-methanol | 33.0 mg, 52% | N[C@]1(C[C@@H](CC1)C1=CC=C(C=C1)OCCCCCCCC)CO | C20H33NO2
